US08455522B2
Step 2: Synthesis of 5-(4-(2-hydroxypropan-2-yl)pyridin-3-yl)-3-methylbenzo[d]oxazol-2(3H)-one
A mixture of 3-Methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3H-benzooxazol-2-one (304 mg, 1.1 mmol), 2-(3-Bromo-pyridin-4-yl)-propan-2-ol (217 mg, 1.0 mmol), Na2CO3 (2 M in water, 1.5 mL, 3.0 mmol) and PdCl2(PPh3)2 (56 mg, 0.08 mmol) in DMF (6 mL) was heated at 100° C. for 4 hrs. After concentration, the residue was diluted with DCM and saturated NH4Cl solution. After filtration and concentration, the residue was purified by flash column (MeOH—CH2Cl2, v/v, 0-3.5%) to give the title compound (1.4 mg, 0.5%); ESI-MS m/z: 285 [M+1]+, Retention time 0.98 min; 1H-NMR (CDCl3, 400 MHz) δ 1.51 (s, 6H), 3.43 (s, 3H), 6.95 (d, J=1.6 Hz, 1H), 7.04 (dd, J=8.4, 1.6 Hz, 1H), 7.32 (d, J=8.4 Hz, 1H), 8.11 (d, J=6.0 Hz, 1H), 8.40 (s, 1H), 8.65 (d. J=6.0 Hz, 1H).

reactant | 3-Methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3H-benzooxazol-2-one | 1.1 mmol, 304 mg | CN1C(OC2=C1C=C(C=C2)B2OC(C(O2)(C)C)(C)C)=O | C14H18BNO4
reactant | 2-(3-Bromo-pyridin-4-yl)-propan-2-ol | 1.0 mmol, 217 mg | BrC=1C=NC=CC1C(C)(C)O | C8H10BrNO
reactant | Na2CO3 | 3.0 mmol, 2 M, 1.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.08 mmol, 56 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-(4-(2-hydroxypropan-2-yl)pyridin-3-yl)-3-methylbenzo[d]oxazol-2(3H)-one | 1.4 mg, 0.5% | OC(C)(C)C1=C(C=NC=C1)C=1C=CC2=C(N(C(O2)=O)C)C1 | C16H16N2O3
